US07291631B2
Using General Procedure B: Reaction of {4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester in CH2Cl2 and 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde with NaBH(OAc)3 gave [4-((5-chloro-3-methyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-butyl]-carbamic acid tert-butyl ester as a colorless oil. 1H NMR (CDCl3) δ 1.26 (m, 4H), 1.44 (s, 9H), 1.64 (s, 6H), 2.13 (s, 3H), 2.31 (t, 2H, J=7.5 Hz), 2.94 (d, 2H, J=6.0 Hz), 3.28 (s, 2H), 3.51 (s, 2H), 5.12 (br s, 1H), 6.90-6.98 (m, 4H), 7.23 (dd, 1H, J=7.5, 3.0 Hz), 7.36 (s, 1H), 7.86 (d, 1H, J=9.0 Hz), 8.25 (d, 1H, J=3.0 Hz), 8.53 (d, 1H, J=3.0 Hz).

reactant | {4-[(5-chloro-3-methyl-pyridin-2-ylmethyl)-amino]-butyl}-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCNCC1=NC=C(C=C1C)Cl)=O | C16H26ClN3O2
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | 3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridine-2-carbaldehyde | FC1=CC=C(C=C1)C(C)(C)C=1C(=NC=CC1)C=O | C15H14FNO
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | [4-((5-chloro-3-methyl-pyridin-2-ylmethyl)-{3-[1-(4-fluoro-phenyl)-1-methyl-ethyl]-pyridin-2-ylmethyl}-amino)-butyl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NCCCCN(CC1=NC=CC=C1C(C)(C)C1=CC=C(C=C1)F)CC1=NC=C(C=C1C)Cl)=O | C31H40ClFN4O2
